US07625901B2
Step A. Methyl 1-aminocyclopentanecarboxylate hydrochloride
A solution of 1-aminocyclopentanecarboxylic acid (2.00 g, 15.5 mmol) in MeOH (30 mL) was saturated with HCl (g). The resulting mixture was aged at ambient temperature for 2 h and concentrated in vacuo to provide the title compound. MS: m/z=144 (M+1).

reactant | 1-aminocyclopentanecarboxylic acid | 15.5 mmol, 2.00 g | NC1(CCCC1)C(=O)O | C6H11NO2
reactant | HCl | Cl | ClH
reactant | MeOH | 30 mL | CO | CH4O
product | Methyl 1-aminocyclopentanecarboxylate hydrochloride | Cl.NC1(CCCC1)C(=O)OC | InChI=1S/C7H13NO2.ClH/c1-10-6(9)7(8)4-2-3-5-7;/h2-5,8H2,1H3;1H
